US08871782B2
A 1.0 M solution of boron tribromide in dichloromethane (2.55 mL, 2.55 mmol) was added over 1 minute to a slurry of N-(3-{[4-amino-2-(2-methoxyethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-7-yl]oxy}propyl)-2-methylpropanamide (1.09 g, 2.55 mmol) at 0° C. The clumpy slurry was allowed to stir for 15 minutes at 0° C., then was allowed to stir for another hour at ambient temperature. Additional boron tribromide solution (0.6 mL, 0.6 mmol) was added. After 16 hours, the reaction was quenched with 6 M hydrochloric acid (10 mL), stirred until all the solids dissolved, and the dichloromethane was removed under reduced pressure. The aqueous layer was adjusted to approximately pH 13 with 50% aqueous sodium hydroxide and was extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, filtered, and evaporated. The material was purified by chromatography on a HORIZON HPFC system (silica gel, gradient elution with 2-22% CMA in chloroform) followed by trituration with acetonitrile to afford 0.325 g of N-(3-{[4-amino-2-(2-hydroxyethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-7-yl]oxy}propyl)-2-methylpropanamide as a white solid, mp 190.5-192° C.

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | dichloromethane | 2.55 mmol, 2.55 mL | ClCCl | CH2Cl2
reactant | N-(3-{[4-amino-2-(2-methoxyethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-7-yl]oxy}propyl)-2-methylpropanamide | 2.55 mmol, 1.09 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CCC)CCOC)OCCCNC(C(C)C)=O | C23H33N5O3
reactant | boron tribromide | 0.6 mmol, 0.6 mL | B(Br)(Br)Br | BBr3
product | N-(3-{[4-amino-2-(2-hydroxyethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-7-yl]oxy}propyl)-2-methylpropanamide | 0.325 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CCC)CCO)OCCCNC(C(C)C)=O | C22H31N5O3
